US08383641B2
q.1 (S)-2-(6-Methoxy-5-nitro-pyridin-2-yloxymethyl)-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester
To a mixture of Pd(OAc)2 (0.08 g, 0.34 mmol) and [1,1′]binaphthalen-2-yl-di-tert-butyl-phosphane (0.14 g, 0.34 mmol) in toluene (10 ml) was added 6-bromo-2-methoxy-3-nitropyridine(1.0 g, 4.29 mmol), Cs2CO3 (3.5 g, 10.73 mmol), and (S)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester (1.73 g, 8.58 mmol). The mixture was stirred under nitrogen at room temperature for 24 h. After evaporation of the solvent under reduced pressure, the residue was purified by silica gel chromatography with dichloromethane/ethyl acetate/methanol (10:0:0; 9:0.5:0.5; 7:1.5:1.5; 0:5:5) as eluent to provide 0.11 g (7.5%) of the product.

reactant | [1,1′]binaphthalen-2-yl-di-tert-butyl-phosphane | 0.34 mmol, 0.14 g | C1(=C(C=CC2=CC=CC=C12)P(C(C)(C)C)C(C)(C)C)C1=CC=CC2=CC=CC=C12 | C28H31P
reactant | 6-bromo-2-methoxy-3-nitropyridine | 4.29 mmol, 1.0 g | BrC1=CC=C(C(=N1)OC)[N+](=O)[O-] | C6H5BrN2O3
reactant | Cs2CO3 | 10.73 mmol, 3.5 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | (S)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid tert-butyl ester | 8.58 mmol, 1.73 g | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)CO | C10H19NO3
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(OAc)2 | 0.34 mmol, 0.08 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (S)-2-(6-Methoxy-5-nitro-pyridin-2-yloxymethyl)-pyrrolidine-1-carboxylic Acid Tert-Butyl Ester | 0.11 g, 7.5% | C(C)(C)(C)OC(=O)N1[C@@H](CCC1)COC1=NC(=C(C=C1)[N+](=O)[O-])OC | C16H23N3O6
